Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.372111427598
[H:1][C:2]#[C:3][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.82600495428
[C:6]([H:7])(=[C:8]([H:9])[H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:12]([H:13])[C:15]([H:14])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.17136319765
[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]#[C:7][H:8],-7.312813930630001
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[O:8][H:9]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][H:9],-8.368264257569999
[H:1][O:2][C:3][C@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-3.9753635
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11].[H:1],3.97663606109
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.59021009375
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]#[C:5][H:6],1.78048739716
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],3.64391825032
[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.74694445613
[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-6.220005229600001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6],2.95160069941
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3][C:4][H:5],5.2083733510800005
[H:1][C:2][C:5]([O:4][O:3])([H:6])[H:7]>>[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7],-2.58630637705
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.0837015756497
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],4.54815943882
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.517487562621
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][C:10][H:11],-1.0639212727200005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-4.62891773324
[C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8],-3.53290710526
[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6])[O:8][H:9].[H:7],4.3870221679400005
[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-3.98265501456
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-7.508792286539999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.818746190480001
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.69392609547
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][O:8][H:9])=[C:10]([H:11])[H:12].[H:6],1.42870493562
[C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11].[O:1]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-3.5168470847
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]=[O:4],1.54470980547
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],1.5906247939899998
